US08471005B2
[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[4-(2-morpholin-4-yl-ethoxy)-phenyl]-amine
Into a Microwave vial, [A] 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (0.116 g, 0.000404 mol), [B] 4-(2-Morpholin-4-yl-ethoxy)-phenylamine (0.197 g, 0.000888 mol), 1-Methoxy-2-propanol (0.971 mL, 0.00993 mol) and N,N-Diisopropylethylamine (0.155 mL, 0.000888 mol) were added. The reaction was microwaved on 300 watts, 170° C. for 50 minutes. The solvent was removed under vacuum. The desired product was isolated via ISCO column chromatography with DCM and methanol as eluant (0 to 12% methanol). The collected fractions afforded [7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[4-(2-morpholin-4-yl-ethoxy)-phenyl]-amine a yellow solid (22 mg, 12%). MP 125-126° C. LCMS (E/I+) 446.8 (M+H). NMR 1H (DSMO-d6)-9.20 (s, 1H), 8.91 (s, 1H), 7.79 (dd, 1H, JJ=1.60, 6.04 Hz), 7.61 (d, 2H, J=9.00 Hz), 7.45 (dt, 1H, JJ=1.40, 7.12 Hz), 7.21 (d, 1H, J=8.36 Hz), 7.12 (t, 1H, J=7.53 Hz), 6.92 (d, 1H, J=4.56 Hz), 6.89 n (d, 1H, J=4.64 Hz), 6.80 (d, 2H, J=9.00 Hz), 4.02 (t, 2H, J=5.80 Hz), 3.79 (s, 3H), 3.3.58 (t, 4H, J=4.68 Hz), 2.65 (t, 2H, J=5.68 Hz), 2.46 (t, 4H, J=4.48 Hz).

reactant | 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.000404 mol, 0.116 g | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C14H13N3O2S
reactant | 4-(2-Morpholin-4-yl-ethoxy)-phenylamine | 0.000888 mol, 0.197 g | N1(CCOCC1)CCOC1=CC=C(C=C1)N | C12H18N2O2
reactant | 1-Methoxy-2-propanol | 0.00993 mol, 0.971 mL | COCC(C)O | C4H10O2
reactant | N,N-Diisopropylethylamine | 0.000888 mol, 0.155 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | [7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[4-(2-morpholin-4-yl-ethoxy)-phenyl]-amine | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)OCCN2CCOCC2 | C25H27N5O3
